US04826869
1-Ethyl-2-(3'-ureidobenzyl)pyrrolidine
A solution of 4 g (20 mmol) of 1-ethyl-2-(3'-ureidobenzyl)pyrrole, prepared, for example, as described in Preparation 4D, in 100 ml of glacial acetic acid was hydrogenated at 45 p.s.i. in the presence of 3 g of 5% rodium on activated alumina as catalyst, for 75 minutes. The catalyst was then separated by filtration and the filtrate evaporated in vacuo. The residue was suspended in 100 ml of methylene chloride and 20 ml of concentrated ammonium hydroxide was added. The mixture was dried over sodium sulfate and evaporated under reduced pressure. The residue was crystallized from ethyl acetate-hexane, to yield 2.26 g (46%) of the title compound, 1-ethyl-2-(3'-ureidobenzyl)pyrrolidine. M.P. 114°-116°

reactant | 1-ethyl-2-(3'-ureidobenzyl)pyrrole | 20 mmol, 4 g | C(C)N1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C14H17N3O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-Ethyl-2-(3'-ureidobenzyl)pyrrolidine | 2.26 g, 46% | C(C)N1C(CCC1)CC1=CC(=CC=C1)NC(=O)N | C14H21N3O
